US08492582B2
Methanol (1.5 mL), dioxane (1.5 mL), and a 2 mol/L aqueous solution of sodium hydroxide (0.24 mL) were added the obtained tert-butyl 4-(1-methyl-1H-pyrrol-2-yl)-2-(5-phenylpyridine-3-carboxamido)benzoate (71 mg), followed by stirring at 50 to 55° C. for 2 hours. The reaction mixture was cooled to room temperature, and then a 10% aqueous solution of citric acid was added thereto. The solid substance was collected by filtration to obtain 50 mg of 4-(1-methyl-1H-pyrrol-2-yl)-2-(5-phenylpyridine-3-carboxamido)benzoic acid as a white solid.

reactant | Methanol | 1.5 mL | CO | CH4O
reactant | sodium hydroxide | 0.24 mL | [OH-].[Na+]
reactant | tert-butyl 4-(1-methyl-1H-pyrrol-2-yl)-2-(5-phenylpyridine-3-carboxamido)benzoate | 71 mg | CN1C(=CC=C1)C1=CC(=C(C(=O)OC(C)(C)C)C=C1)NC(=O)C=1C=NC=C(C1)C1=CC=CC=C1 | C28H27N3O3
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
product | 4-(1-methyl-1H-pyrrol-2-yl)-2-(5-phenylpyridine-3-carboxamido)benzoic acid | 50 mg | CN1C(=CC=C1)C1=CC(=C(C(=O)O)C=C1)NC(=O)C=1C=NC=C(C1)C1=CC=CC=C1 | C24H19N3O3
